US06403595B1
4-(5-Bromo-2-thiophenesulfonyl)-1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone
To a solution of 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone (500 mg) in ethyl acetate (15 ml) and sodium bicarbonate solution (10 ml) was added at 0° C. 5-bromo-2-thiophenesulfonyl chloride (440 mg), and the mixture was stirred at room temperature for 30 minutes. The organic layer was separated, washed with brine, dried and concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:3) to give colorless solid of the title compound (430 mg).

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone | 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
reactant | 5-bromo-2-thiophenesulfonyl chloride | 440 mg | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
product | 4-(5-Bromo-2-thiophenesulfonyl)-1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone | 430 mg | BrC1=CC=C(S1)S(=O)(=O)N1CC(N(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H28BrN3O5S2
